US07696231B2
b) Preparation of 4-{[4-(hydrazinocarbonyl)benzoyl]amino}benzoic acid (Scheme 2, compound B)
To a suspension of 4-{[4-(methoxycarbonyl)benzoyl]amino}benzoic acid (300 mg g, 1 mmol) in EtOH (4.5 mL) was added hydrazine hydrate (0.73 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (3×1 mL) and drying under vacuo at 70° C. for 2 hrs gave a white solid. This residue was taken up in water (25 mL) and AcOH (5 mL) was added. A white solid precipitated out which was further washed with water (3×2 mL). Drying at 80° C. for 1 hr gave 220 mg of the title compound (73%) as a white solid in 91.2% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-{[4-(methoxycarbonyl)benzoyl]amino}benzoic acid | 1 mmol, 300 mg | COC(=O)C1=CC=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C16H13NO5
reactant | hydrazine hydrate | 0.73 mL | O.NN
reactant | AcOH | 5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 4.5 mL | CCO | C2H6O
solvent | water | 25 mL | O | H2O
product | 4-{[4-(hydrazinocarbonyl)benzoyl]amino}benzoic acid | 220 mg, 73% | N(N)C(=O)C1=CC=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C15H13N3O4
